US04980356
The procedure is as in Example 21, starting with 2-amino-6-trifluoromethoxybenzothiazole (9.4 g), 1-chloro-2-phenylthioethane (13.8 g) and sodium iodide (13.5 g) in methyl ethyl ketone (30 cc). The mixture is heated for 88 hours to boiling and then cooled to a temperature in the region of 20° C. Ethyl ether (250 cc) is added to the reaction medium and the precipitate formed is filtered off. The solid is suspended in distilled water (250 cc), treated with 1N sodium hydroxide (40 cc) and then extracted with ethyl ether (100 cc). After drying over magnesium sulphate and filtration, ethyl acetate (150 cc) is added to the filtrate, which is treated with 4N ethereal hydrogen chloride (10 cc). The precipitate formed is filtered off and recrystallized in 2-propanol (85 cc). 2-Imino-3-(2-phenylthioethyl)-6 -trifluoromethoxybenzothiazoline hydrochloride (5.4 g), m.p. 174° C., is obtained.

reactant | 2-amino-6-trifluoromethoxybenzothiazole | 9.4 g | NC=1SC2=C(N1)C=CC(=C2)OC(F)(F)F | C8H5F3N2OS
reactant | 1-chloro-2-phenylthioethane | 13.8 g | ClCCSC1=CC=CC=C1 | C8H9ClS
reactant | sodium iodide | 13.5 g | [I-].[Na+]
reactant | Ethyl ether | 250 cc | C(C)OCC | C4H10O
solvent | methyl ethyl ketone | 30 cc | C(C)C(=O)C | C4H8O
product | 2-Imino-3-(2-phenylthioethyl)-6 -trifluoromethoxybenzothiazoline hydrochloride | 5.4 g | Cl.N=C1SC2=C(N1CCSC1=CC=CC=C1)C=CC(=C2)OC(F)(F)F | InChI=1S/C16H13F3N2OS2.ClH/c17-16(18,19)22-11-6-7-13-14(10-11)24-15(20)21(13)8-9-23-12-4-2-1-3-5-12;/h1-7,10,20H,8-9H2;1H
